US06656938B2
A rapidly stirred solution of tert-butyl 2-(2-hydroxyethoxy)ethylcarbamate (47.1 g, 0.230 mol) in 1 L of anhydrous CH2Cl2 was cooled to 0° C. under N2 and treated with triethylamine (48.0 mL, 0.345 mol). Methanesulfonyl chloride (19.6 mL, 0.253 mol) was then added dropwise over 30 min. The reaction mixture was then allowed to warm to room temperature and was stirred an additional 22 h. The reaction was quenched by addition of 500 mL saturated NaHCO3 solution and the organic layer was separated. The organic phase was then washed with H2O (3×500 mL) and brine. The organic portion was dried over Na2SO4 and concentrated to give 2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl methanesulfonate as a brown oil (63.5 g).

reactant | tert-butyl 2-(2-hydroxyethoxy)ethylcarbamate | 0.230 mol, 47.1 g | OCCOCCNC(OC(C)(C)C)=O | C9H19NO4
reactant | triethylamine | 0.345 mol, 48.0 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.253 mol, 19.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | 2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl methanesulfonate | 63.5 g | CS(=O)(=O)OCCOCCNC(=O)OC(C)(C)C | C10H21NO6S
